US04831173
49 g (0.5 mole) of ethoxyamine hydrochloride and 151.5 g (1.5 mole) of triethylamine in 250 ml of dry diethyl ether is treated with carbon dioxide in the same apparatus and same conditions as described in Example 1a. After the carbon dioxide uptake has been finished, 108.5 g (1 mole) of trimethylchlorosilane is added to the reaction mixture over 1.5 hours under vigorous stirring. Following the same procedure as in Example 1a., a mixture of N-ethoxy,N-trimethylsilylcarbamic acid trimethylsilyl ester and N-ethoxycarbamic acid trimethylsilyl ester is obtained. Distillation under reduced pressure give 28.3 g (0.16 mole, 32%; b.p.: 42-45° C./2.5 mbar) of N-ethoxycarbamic acid trimethylsilyl ester and 72.1 g (0.29 mole, 58%; b.p.: 87-91° C./2.5 mbar) of N-ethoxy,N-trimethylsilylcarbamic acid trimethylsilyl ester.

reactant | ethoxyamine hydrochloride | 0.5 mole, 49 g | Cl.C(C)ON
reactant | triethylamine | 1.5 mole, 151.5 g | C(C)N(CC)CC | C6H15N
reactant | carbon dioxide | C(=O)=O | CO2
reactant | trimethylchlorosilane | 1 mole, 108.5 g | C[Si](Cl)(C)C | C3H9ClSi
reactant | N-ethoxy,N-trimethylsilylcarbamic acid trimethylsilyl ester | C[Si](C)(C)OC(N([Si](C)(C)C)OCC)=O | C9H23NO3Si2
solvent | diethyl ether | 250 ml | C(C)OCC | C4H10O
product | N-ethoxycarbamic acid trimethylsilyl ester | C[Si](C)(C)OC(NOCC)=O | C6H15NO3Si
